US09163023B2
A 0° C. solution of ethyl 4-hydroxy-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (10.0 g, 42.7 mmol) in acetonitrile (200 mL) and pyridine (4.13 mL, 51.2 mmol) was treated dropwise with Tf2O (8.65 mL, 51.2 mmol). After 1 h, the reaction mixture was treated with NaI (19.20 g, 128 mmol) followed by dropwise addition of 3M HCl (17.08 mL, 51.2 mmol) and warmed to 70° C. After 3 h, the reaction mixture was cooled to ambient temperature and added to a sat. aq. solution of Na2S2O3. After stirring for 15 min, ethyl acetate was added and the layers partitioned. The organic layer was washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to afford ethyl 4-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (14.7 g).

reactant | ethyl 4-hydroxy-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 42.7 mmol, 10.0 g | OC1=C2C(=NC(=C1C(=O)OCC)C)N(C=C2)C | C12H14N2O3
reactant | pyridine | 51.2 mmol, 4.13 mL | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 51.2 mmol, 8.65 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaI | 128 mmol, 19.20 g | [Na+].[I-]
reactant | HCl | 51.2 mmol, 3M, 17.08 mL | Cl | ClH
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 14.7 g | IC1=C2C(=NC(=C1C(=O)OCC)C)N(C=C2)C | C12H13IN2O2
